US05843942
To a solution of 2-(N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carboxylic acid (0.89 g) in dichloromethane (50 ml) was added propanesulphonamide (0.3 g), dimethylaminopyrimidine (0.493 g) and 1-(3-dimethylaminopropyl)ethylcarbodiimide hydrochloride (0.58 g). The mixture was stirred at ambient temperature for 18 hours, and poured into 2N HCl. The organic layer was separated and washed with water and brine, then dried (MgSO4), filtered and evaporated. The resulting oil was purified by chromatography on silica gel (eluting with 5% ethylacetate/dichloromethane to give N-(2-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carbonyl)propanesulphonamide (271 mg) as a white foam.

reactant | 2-(N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carboxylic acid | 0.89 g | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=NC=C(C=C2)C(=O)O)C=C(C=C1)Br | C22H21BrN2O3
reactant | propanesulphonamide | 0.3 g | C(CC)S(=O)(=O)N | C3H9NO2S
reactant | dimethylaminopyrimidine | 0.493 g | CN(C)C1=NC=CC=N1 | C6H9N3
reactant | 1-(3-dimethylaminopropyl)ethylcarbodiimide hydrochloride | 0.58 g | Cl.CN(CCCC(C)N=C=N)C
reactant | HCl | 2N | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(2-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carbonyl)propanesulphonamide | 271 mg | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=NC=C(C=C2)C(=O)NS(=O)(=O)CCC)C=C(C=C1)Br | C25H28BrN3O4S
